US07622480B2
This compound was prepared following the procedure described in example 24, part C, starting with 8.7 g (31.8 mmol) of 4-(1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester and 5.75 ml (47.7 mmol) of 2-chloro-5-chloromethylthiophen. After standard work-up and purification, 7.67 g (60% of yield) of 4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester | 31.8 mmol, 8.7 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CN=CC=C21 | C15H19N3O2
reactant | 2-chloro-5-chloromethylthiophen | 47.7 mmol, 5.75 ml | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-piperidine-1-carboxylic acid ethyl ester | 7.67 g, 60% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CN=CC=C21)CC=2SC(=CC2)Cl | C20H22ClN3O2S
